US04567302
2-Nitro-2-methyl-1,3-propanediol 405.00 grams (3.00 moles), 98% trioxane 92.80 grams (1.00 mole), p-toluenesulfonic acid 3.00 grams (0.016 mole), and benzene 600 ml were placed in a two liter three-necked RB flask. The flask was fitted with a thermometer, a mechanical stirrer and a Dean-Stark trap connected to a condenser. The mixture was stirred and refluxed. The slurry gradually became a homogeneous solution (usually about 30 minutes after heating started) and the benzene-water azeotrope started to distill over. Refluxing was continued until 45 ml of water was collected (i.e., approximately four hours). During this period the solution temperature was between 78° C. and 82° C. After 45 ml of water had been collected, the reaction mixture was cooled and neutralized with 3 ml triethylamine. Benzene was distilled from the clear solution first at atmospheric pressure (approximately 415 ml benzene was recovered at a solution temperature of 82° C.-100° C.) and then at about 125 mm of pressure (approximately 120 ml benzene was recovered at a solution temperature of about 48° C.-110° C.). A clear, pale-yellow, viscous liquid, 450.67 grams, containing a mixture of the reaction products polynitroformal and 5-methyl-5-nitro-1,3-dioxane was obtained as the resulting product.

reactant | 2-Nitro-2-methyl-1,3-propanediol | 3.00 moles, 405.00 grams | [N+](=O)([O-])C(CO)(CO)C | C4H9NO4
reactant | trioxane | 1.00 mole, 92.80 grams | O1OOCCC1 | C3H6O3
reactant | p-toluenesulfonic acid | 0.016 mole, 3.00 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | benzene | 600 ml | C1=CC=CC=C1 | C6H6
solvent | benzene water | C1=CC=CC=C1.O
product | 5-methyl-5-nitro-1,3-dioxane | CC1(COCOC1)[N+](=O)[O-] | C5H9NO4
